US05334598
A mixture of (3,4-methylenedioxyphenyl)acetic acid (4.64 g, 25.74 mMol) in dry DMF (40 mL), cesium carbonate (9.2 g, 25.74 mMol) and methyl iodide (3.7 g, 26.0 mMol) in dry DMF (40 mL) was stirred at room temperature for 3 h. At the end of this period, the reaction mixture was poured into ice water and extracted with ethyl acetate. The organic phase was washed with saturated NaHCO3, water, brine and then dried (MgSO4) and filtered. The filtrate was concentrated in vacuo to provide pure methyl (3,4-methylenedioxyphenyl)acetate as an oil (4.38 g).

reactant | (3,4-methylenedioxyphenyl)acetic acid | 25.74 mMol, 4.64 g | C1OC=2C=C(C=CC2O1)CC(=O)O | C9H8O4
reactant | cesium carbonate | 25.74 mMol, 9.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 26.0 mMol, 3.7 g | CI | CH3I
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | methyl (3,4-methylenedioxyphenyl)acetate | 4.38 g | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
